US09108936B2
To a solution of trifluoro-methanesulfonic acid [2-[(4-fluorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester (0.60 g, 1.26 mmol) in N-methyl-2-pyrrolidone (5 ml) are added lithium chloride (0.67 g, 1.89 mmol) and triphenylarsine (0.03 g, 0.10 mmol). The reaction mixture is degassed and flushed with argon for 30 min before the addition of copper(I) iodide (0.011 g, 0.03 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.026 g, 0.02 mmol). The mixture is stirred for 10 min followed by the addition of tributyl-isopropenyl stannane (0.67 g, 1.89 mmol). The reaction mixture is heated at 120° C. for 14 h. After completion of the reaction, the reaction mixture is poured onto saturated potassium fluoride solution and extracted with ethyl acetate (3×75 ml). The combined organic layers are washed with water (50 ml), brine (50 ml), dried over sodium sulfate and concentrated to get the crude product, which is purified by column chromatography (silica gel, 35% ethyl acetate/hexane) affording N-[(4-fluorophenyl)-methyl]-2-isopropenyl-6-methyl-4-morpholin-4-yl-benzamide (0.23 g, 0.63 mmol, 50%).

reactant | trifluoro-methanesulfonic acid [2-[(4-fluorophenyl)-methyl-carbamoyl]-3-methyl-5-morpholin-4-yl-phenyl]ester | 1.26 mmol, 0.60 g | FC1=CC=C(C=C1)N(C(=O)C1=C(C=C(C=C1C)N1CCOCC1)OS(=O)(=O)C(F)(F)F)C | C20H20F4N2O5S
reactant | lithium chloride | 1.89 mmol, 0.67 g | [Cl-].[Li+]
reactant | triphenylarsine | 0.10 mmol, 0.03 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | tributyl-isopropenyl stannane | 1.89 mmol, 0.67 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper(I) iodide | 0.03 mmol, 0.011 g | [Cu]I
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 0.026 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-fluorophenyl)-methyl]-2-isopropenyl-6-methyl-4-morpholin-4-yl-benzamide | 0.63 mmol, 0.23 g, 50% | FC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)C(=C)C)=O | C22H25FN2O2
